US08044068B2
A mixture of 1-(4-trifluoromethoxyphenyl)cyclopropanecarbonitrile (4.0 g), 25% aqueous sodium hydroxide (0.46 mL), 30% aqueous hydrogen peroxide (25 mL), and methanol (100 mL) was heated at 55° C. for 1 h with stirring. The reaction mixture was concentrated under reduced pressure, the precipitated crystals were collected by filtration, to obtain white solid 1-(4-(trifluoromethoxy)phenyl)cyclopropanecarbamide (4.5 g). (3) A mixture of 1-(4-trifluoromethoxyphenyl)cyclopropanecarbamide (4.5 g), 15% aqueous sodium hydroxide (150 mL), and methanol (60 mL) was heated at 78° C. for 18 h with stirring. The reaction mixture was left stand for cooling, then the reaction solution was adjusted to pH 2 using 15% hydrochloric acid and concentrated under reduced pressure. The precipitated crystals were collected by filtration to obtain white solid 1-(4-(trifluoromethoxy)phenyl)cyclopropanecarboxylic acid (4.5 g).

reactant | 1-(4-trifluoromethoxyphenyl)cyclopropanecarbonitrile | 4.0 g | FC(OC1=CC=C(C=C1)C1(CC1)C#N)(F)F | C11H8F3NO
reactant | sodium hydroxide | 0.46 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 25 mL | OO | H2O2
solvent | methanol | 100 mL | CO | CH4O
product | 1-(4-(trifluoromethoxy)phenyl)cyclopropanecarbamide | 4.5 g | FC(OC1=CC=C(C=C1)C1(CC1)C(=O)N)(F)F | C11H10F3NO2
